US07223788B2
6-Cyclopropylmethoxy-N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]nicotinamide
(Bromomethyl)cyclopropane was reacted with N-[4-(3-dimethylaminopyrrolidin-1-yl)-phenyl]-6-hydroxynicotinamide by method H-a. This resulted in the product with the molecular weight of 380.22 (C22H28N4O2); MS (ESI): 381 (M+H+) as hydrotrifluoroacetate.

reactant | (Bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
reactant | N-[4-(3-dimethylaminopyrrolidin-1-yl)-phenyl]-6-hydroxynicotinamide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(C1=CN=C(C=C1)O)=O)C | C18H22N4O2
product | 6-Cyclopropylmethoxy-N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]nicotinamide | C1(CC1)COC1=NC=C(C(=O)NC2=CC=C(C=C2)N2CC(CC2)N(C)C)C=C1 | C22H28N4O2
